US04898871
The procedure is as in Example 22, but starting with N-(3-hydroxypropyl)-2-piperidone (7 g) in anhydrous tetrahydrofuran (150 cc), an oily suspension (50% by weight; 2.15 g) of sodium hydride and 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (10 g). The product obtained is purified by chromatography on silica (0.063-0.2 mm; 240 g) contained in a column 5 cm in diameter, collecting 50-cc fractions. Fractions 23 to 27, eluted with a mixture of methylene chloride and methanol (95:5 by volume), are concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The residue obtained is crystallized by stirring in acetonitrile and then recrystallized in carbon tetrachloride. 2-(7-Chloro-1,8-naphthyridin-2-yl)-3-[3-(2-oxopiperidino)propoxy]-1-isoindolinone (2 g), m.p. 140° C., is thereby obtained.

reactant | N-(3-hydroxypropyl)-2-piperidone | 7 g | OCCCN1C(CCCC1)=O | C8H15NO2
reactant | sodium hydride | 2.15 g | [H-].[Na+]
reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 10 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
solvent | tetrahydrofuran | 150 cc | O1CCCC1 | C4H8O
product | 2-(7-Chloro-1,8-naphthyridin-2-yl)-3-[3-(2-oxopiperidino)propoxy]-1-isoindolinone | 2 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1OCCCN1C(CCCC1)=O)=O | C24H23ClN4O3
